US05750471
Step B: 1-Chloro-N-ethyl-N-(4-fluoro-3-nitrophenyl)methanesulfonamide
A solution of 1-chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide (5.93 g, 22.1 mmol), iodoethane (3.79 g, 24.3 mmol), tetrabutylammonium bromide (0.712 g, 2.21 mmol), and anhydrous K2CO3 (8.85 g, 64 mmol) in anhydrous dimethylformamide (40 mL) was stirred at room temperature. When the starting material had disappeared based on thin layer chromatography on silica (6 h), the reaction mixture was poured into water (200 mL) and extracted with CH2Cl2 (500 mL). The organic extract was washed with water (two times with 50 mL), dried (MgSO4), and the solvent was removed under reduced pressure. The residue was purified by flash chromatography (silica gel, 1-chlorobutane and diethyl ether 100:1 v/v eluent) to give 4.68 g of the title compound of Step B as a solid melting at 80°-83° C. 1H NMR (Me2SO-d6, 400 MHz): δ8.17 (dd,1H, J=6.75 and 2.7Hz), 7.85 (dd,1H, J=9.4 and 3 Hz), 7.69 (dd,1H, J=11 and 9 Hz), 5.25 (s,2H), 3.83 (q,2H), 1.04 (t,3H).

reactant | 1-chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide | 22.1 mmol, 5.93 g | ClCS(=O)(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H6ClFN2O4S
reactant | iodoethane | 24.3 mmol, 3.79 g | ICC | C2H5I
reactant | K2CO3 | 64 mmol, 8.85 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 mL | O | H2O
catalyst | tetrabutylammonium bromide | 2.21 mmol, 0.712 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-Chloro-N-ethyl-N-(4-fluoro-3-nitrophenyl)methanesulfonamide | 4.68 g | ClCS(=O)(=O)N(C1=CC(=C(C=C1)F)[N+](=O)[O-])CC | C9H10ClFN2O4S
